US20010027196A1
4-(2-Dimethylamino-ethoxy)-6-furan-2-yl-5-nitro-pyrimidin-2-yl-amine
From trifluoro-methanesulfonic acid 2-amino-6-furan-2-yl-5-nitro-pyrimidin-4-yl ester, 2-dimethylaminoethanol and DBU in DME. ES-MS m/e (%): 294 (M+H+, 100).

reactant | trifluoro-methanesulfonic acid 2-amino-6-furan-2-yl-5-nitro-pyrimidin-4-yl ester | NC1=NC(=C(C(=N1)OS(=O)(=O)C(F)(F)F)[N+](=O)[O-])C=1OC=CC1 | C9H5F3N4O6S
reactant | 2-dimethylaminoethanol | CN(CCO)C | C4H11NO
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | 4-(2-Dimethylamino-ethoxy)-6-furan-2-yl-5-nitro-pyrimidin-2-yl-amine | CN(CCOC1=NC(=NC(=C1[N+](=O)[O-])C=1OC=CC1)N)C | C12H15N5O4
